US06489344B1
[4-(2,4-dichlorophenyl)-5-(4-methylimidazol-2-yl)pyrimidin-2-yl]{2-[(5-nitro(2-pyridyl))amino]ethyl}amine was prepared from 6-chloro-3-nitropyridine using the general method for 6-[(2-([4-(2,4-dichlorophenyl)-5-(4-methylimidazol-2-yl)pyrimidin-2-yl]amino}ethyl)amino]pyridine-3-carbonitrile.

reactant | 6-chloro-3-nitropyridine | ClC1=CC=C(C=N1)[N+](=O)[O-] | C5H3ClN2O2
reactant | 6-[(2-([4-(2,4-dichlorophenyl)-5-(4-methylimidazol-2-yl)pyrimidin-2-yl]amino}ethyl)amino]pyridine-3-carbonitrile | ClC1=C(C=CC(=C1)Cl)C1=NC(=NC=C1C=1NC=C(N1)C)NCCNC1=CC=C(C=N1)C#N | C22H18Cl2N8
product | [4-(2,4-dichlorophenyl)-5-(4-methylimidazol-2-yl)pyrimidin-2-yl]{2-[(5-nitro(2-pyridyl))amino]ethyl}amine | ClC1=C(C=CC(=C1)Cl)C1=NC(=NC=C1C=1NC=C(N1)C)NCCNC1=NC=C(C=C1)[N+](=O)[O-] | C21H18Cl2N8O2
